US06291448B1
A solution of allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-carbapen-2-em-3-carboxylate (25.5 mg, 0.07 mmol), 1,3-dihydro-benzo[c]isothiazole 2,2-dioxide (13 mg, 0.077 mmol), and triphenylphosphine (28 mg, 0.105 mmol) in anhydrous tetrahydrofuran (0.4 mL) was cooled in an ice bath and treated with diethyl azodicarboxylate (0.017 mL, 0.105 mmol). The mixture was stirred at 0-5° C. for 30 minutes, then streaked onto a 1 mm×20 cm×20 cm silica gel GF plates. The plates were developed with 5% ethyl acetate in dichloromethane. The product band was removed and eluted with ethyl acetate to afford allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxy-ethyl]-2-(2,2-dioxo-2,3-dihydro-benzo [c]isothiazol-1-yl-methyl)-1-methyl-carbapen-2-em-3-carboxylate (15 mg) as an oil.

reactant | allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-carbapen-2-em-3-carboxylate | 0.07 mmol, 25.5 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | 1,3-dihydro-benzo[c]isothiazole 2,2-dioxide | 0.077 mmol, 13 mg | N1S(CC2=C1C=CC=C2)(=O)=O | C7H7NO2S
reactant | triphenylphosphine | 0.105 mmol, 28 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.105 mmol, 0.017 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 0.4 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxy-ethyl]-2-(2,2-dioxo-2,3-dihydro-benzo [c]isothiazol-1-yl-methyl)-1-methyl-carbapen-2-em-3-carboxylate | 15 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CN2S(CC3=C2C=CC=C3)(=O)=O)C(=O)OCC=C)C1=O | C25H28N2O8S
